US08686002B2
3-(2,6-Dimethoxybenzyl)quinolin-2-amine
2-[(2-Aminoquinolin-3-yl)methyl]-3-methoxyphenol (40 mg, 0.14 mmol), triphenylphosphine (56 mg, 0.21 mmol) and methanol (7 μL, 0.22 mmol) were placed in THF (2 mL) at 10° C. and then mixed slowly with azodicarboxylate diisopropyl ester (44 mg, 0.22 mmol) in THF (1 mL). Then the mixture was stirred for 12 hours at room temperature. The batch was mixed with water and extracted with ethyl acetate. The combined organic phases were washed with water, dried (sodium sulfate) and concentrated. The crude product was purified chromatographically (silica gel, dichloromethane, methanol). To remove traces of triphenylphosphine oxide, the slightly contaminated product was dissolved in diethyl ether and extracted with 2N aqueous hydrochloric acid. The aqueous phase was alkalized with dilute sodium hydroxide solution and extracted with dichloromethane. The combined dichloromethane extracts were washed with water until neutral, dried (sodium sulfate) and concentrated (yield: 5 mg, 9%).

reactant | 2-[(2-Aminoquinolin-3-yl)methyl]-3-methoxyphenol | 0.14 mmol, 40 mg | NC1=NC2=CC=CC=C2C=C1CC1=C(C=CC=C1OC)O | C17H16N2O2
reactant | triphenylphosphine | 0.21 mmol, 56 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanol | 0.22 mmol, 7 μL | CO | CH4O
reactant | azodicarboxylate diisopropyl ester | 0.22 mmol, 44 mg | C(C)(C)OC(=O)N=NC(=O)OC(C)C | C8H14N2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-(2,6-Dimethoxybenzyl)quinolin-2-amine | COC1=C(CC=2C(=NC3=CC=CC=C3C2)N)C(=CC=C1)OC | C18H18N2O2
